US05811571
A 2-liter, 4-necked flask equipped with a stirrer, thermometer, condenser and a dropping funnel having a by-pass was charged with 20.4 g (0.10 mole) of 4-nitrophenyl methyl sulfide, 10 g of water and 200 g of monochlorobenzene. Then, 94.5 g (0.70 mole) of sulfuryl chloride was added dropwise at 10° C. over a period of about 2 hours. Thereafter the mixture was stirred at 10° C. for 6 hours to complete the reaction. After completion of the reaction, the oil layer was separated and 10 g of water was added to accomplish washing. Then, the oil layer was separated and left to stand for about 1 hour with the addition of about 5 g of anhydrous sodium sulfate to remove the water. The solvent was distilled off to give crude crystals. The crude crystals were dissolved in monochlorobenzene and a poor solvent was added for recrystallization, giving 21.1 g of 4-nitrobenzenesulfonyl chloride as white crystals in a yield of 95% as calculated based on 4-nitrophenyl methyl sulfide.

reactant | 4-nitrophenyl methyl sulfide | 0.10 mole, 20.4 g | CSC1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO2S
reactant | water | 10 g | O | H2O
reactant | sulfuryl chloride | 0.70 mole, 94.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | monochlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | monochlorobenzene | 200 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-nitrobenzenesulfonyl chloride | 21.1 g, yield of 95% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
